US08258130B2
A solution of N-(2-bromo-4-trifluoromethoxy-phenyl)-N-but-2-enyl-2,2,2-trifluoro-acetamide (10 g, 24.7 mmol) in DMF (50 mL) is treated with n-Bu4NCl (7.5 g, 27.2 mmol), Pd(OAc)2 (221 mg, 0.98 mmol), and stirred at 100° C. for 1 h. H2O (10 mL) is added, and the mixture is cooled to rt, filtered through a pad of silica gel. The filtrate is extracted with heptane (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0%-25% EtOAc in heptane to afford 3-ethyl-5-trifluoromethoxy-1H-indole (3.1 g, 55%). MS: 230 (M+H); 1H NMR (300 MHz, CDCl3): δ 7.97 (s, NH, 1H), 7.44 (s, 1H), 7.29 (m, 1H), 7.07 (m, 2H), 2.77 (q, 2H), 1.32 (t, 3H).

reactant | N-(2-bromo-4-trifluoromethoxy-phenyl)-N-but-2-enyl-2,2,2-trifluoro-acetamide | 24.7 mmol, 10 g | BrC1=C(C=CC(=C1)OC(F)(F)F)N(C(C(F)(F)F)=O)CC=CC | C13H10BrF6NO2
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | n-Bu4NCl | 27.2 mmol, 7.5 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
catalyst | Pd(OAc)2 | 0.98 mmol, 221 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-ethyl-5-trifluoromethoxy-1H-indole | 3.1 g, 55% | C(C)C1=CNC2=CC=C(C=C12)OC(F)(F)F | C11H10F3NO
